US05095129
23.8 g of N-chlorosuccinimide provided in 600 ml of absolute methylene chloride is cooled to 0° C. and is slowly mixed with 15.6 ml of dimethyl sulfide. Thereafter the suspension thus produced is cooled to -30° C. and carefully mixed with 20 g of 2-chloro-5-dimethylaminobenzyl alcohol. The reaction mixture is then warmed to 0° C. and stirred at this temperature for 3 hours. Thereafter the mixture is diluted with methylene chloride and poured into ice water. The organic phase is separated, washed with saturated sodium chloride solution, dried over sodium sulfate solution and concentrated in vacuo. The residue is chromatographed with hexane over aluminum oxide (neutral, stage III). A yield of 17.2 g of 2-chloro-5-dimethylaminobenzyl chloride is obtained.

reactant | dimethyl sulfide | 15.6 ml | CSC | C2H6S
reactant | 2-chloro-5-dimethylaminobenzyl alcohol | 20 g | ClC1=C(CO)C=C(C=C1)N(C)C | C9H12ClNO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-dimethylaminobenzyl chloride | yield of 17.2 g | ClC1=C(CCl)C=C(C=C1)N(C)C | C9H11Cl2N
